US03952034
After 2 hours reaction, the autoclave was allowed to cool and was vented. A portion of the autoclave contents, containing 40 parts by weight of ethyl cyclo-oct-4-ene-1-carboxylate, was mixed with water (100 parts by volume) and sodium hydroxide (21 parts by weight). The mixture was heated under reflux for 2 hours, when metallic palladium precipitated out. This was removed by filtration, and the filtrate was poured into water (350 parts by volume) and acidified with excess concentrated hydrochloric acid to give cyclo-oct-4-ene-1-carboxylic acid as a yellow oil, which was extracted with diethyl ether (3 × 200 parts by volume). The ethereal solution was dried over sodium sulphate and the ether was evaporated off to give 32.5 parts by weight of the cyclo-octene acid. This acid was mixed with water (400 parts by volume) and sodium hydroxide (20 parts by weight) and heated in an autoclave at 320°C for 1.5 hours. The autoclave was cooled and the contents filtered, after addition of a small amount of charcoal, in order to remove inorganic materials. The filtrate was acidified with concentrated hydrochloric acid and allowed to stand overnight, to give an aqueous suspension of azelaic acid. The azelaic acid was recovered by filtration and the aqueous mother liquor was extracted with diethyl ether. The ethereal solution was dried over sodium sulphate and the ether was evaporated off. The solid residue was combined with the azelaic acid recovered by filtration, and the product was dried in a vacuum oven to give 38.6 parts by weight of crude azelaic acid.

reactant | ethyl cyclo-oct-4-ene-1-carboxylate | C1(CCC=CCCC1)C(=O)OCC | C11H18O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | cyclo-oct-4-ene-1-carboxylic acid | C1(CCC=CCCC1)C(=O)O | C9H14O2
